US04898455
A solution of 1.256 g of p-(5-pentyl-2-pyridyl)aniline in 29 ml of chloroform was treated at 5° C. under nitrogen with 1.46 ml of triethylamine. Then, at 1° C. within 20 minutes a solution of 0.49 ml of 95 percent thiophosgene in 14.5 ml of chloroform was added dropwise to the reaction mixture so that the temperature did not exceed 3° C. The reaction mixture was subsequently stirred at room temperature for 45 minutes and under reflux for a further 40 minutes, then cooled and washed with 40 ml of 3N ammonia and with water. The aqueous phases were back-extracted with methylene chloride. The organic phases were dried over sodium sulphate, filtered and freed from solvent. Purification of the resulting brownish paste (1.56 g) by chromatography on 60 g of silica gel with 700ml of methylene chloride/hexane (vol. 1:1) and subsequent crystallization from diethyl ether/hexane gave 1.17 g of p-(5-pentyl-2-pyridyl)phenylisothiocyanate as colourless crystals with m.p. (C--SA) 36.3° C. and cl.p. (SA --I) 97.2° C.

reactant | p-(5-pentyl-2-pyridyl)aniline | 1.256 g | C(CCCC)C=1C=CC(=NC1)C1=CC=C(N)C=C1 | C16H20N2
reactant | triethylamine | 1.46 ml | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.49 ml | C(=S)(Cl)Cl | CCl2S
solvent | chloroform | 29 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 14.5 ml | C(Cl)(Cl)Cl | CHCl3
product | p-(5-pentyl-2-pyridyl)phenylisothiocyanate | 1.17 g | C(CCCC)C=1C=CC(=NC1)C1=CC=C(C=C1)N=C=S | C17H18N2S
